US06245790B1
A mixture of (1R,2S)-1-(4,5-diphenyloxazol-2-yl)-1-hydroxy-2-(3-methoxybenzyl)cyclohexane (28 g) and p-toluene-sulfonic acid (2.5 g) in toluene (300 ml) was stirred for 4 hours under reflux. The solution was washed with water, sat. NaHCO3 and brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford (S)-2-(4,5-diphenyloxazol-2-yl)-1-(3-methoxybenzyl)-2-cyclohexene (16 g).

reactant | (1R,2S)-1-(4,5-diphenyloxazol-2-yl)-1-hydroxy-2-(3-methoxybenzyl)cyclohexane | 28 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)[C@@]1([C@@H](CCCC1)CC1=CC(=CC=C1)OC)O | C29H29NO3
reactant | p-toluene-sulfonic acid | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(4,5-diphenyloxazol-2-yl)-1-(3-methoxybenzyl)-2-cyclohexene | 16 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC1=CC(=CC=C1)OC | C29H27NO2
